US07323604B2
Preparation of (E)-3-cyclohexylpent-2-enol:
To a solution of (E)-ethyl 3-cyclohexylpent-2-enoate (2.3 g, 10.9 mmol) in Et2O (22 mL), was added lithium aluminum hydride (1.0 M in Et2O, 10.9 mL, 10.9 mmol) dropwise. After 5 minutes, the reaction mixture was slowly quenched with 1 mL of MeOH and poured into 100 mL of a saturated solution of potassium sodium tartrate. The aqueous layer was extracted with 100 mL Et2O (3×). The combined organics were dried over Na2SO4, filtered and concentrated. The product was purified by flash chromatography (10% EtOAc/hexanes) to provide a clear oil (1.59 g, 87% yield) that was a 3:1 mixture of E:Z isomers. Major isomer: IR (film) 3421, 2929, 2854, 1732, 1684, 1635, 1449, 1235, 1164, 864, 749 cm−1; 1H NMR (300 MHz, CDCl3) δ 5.33 (t, 1H, J=6.7 Hz, CHCH2OH), 4.17 (d, 2H, J=6.9 Hz, CH2OH), 2.07 (q, 2H, J=7.4 Hz, CH2CH3), 1.99 to 1.63 (m, 6H), 1.48-1.08 (m, 6H), 0.97 (t, 3H, J=7.4 Hz, CH2CH3); 13C NMR (75 MHz, CDCl3) δ 151.1, 121.2, 59.4, 44.8, 32.6, 31.6, 26.9, 26.7, 26.4, 23.1, 14.7; HRMS (EI+) exact mass calculated for [M]+ (C11H20O) requires m/z 168.1514, found m/z 168.1520.

reactant | (E)-ethyl 3-cyclohexylpent-2-enoate | 10.9 mmol, 2.3 g | C1(CCCCC1)/C(=C/C(=O)OCC)/CC | C13H22O2
reactant | lithium aluminum hydride | 10.9 mmol, 1.0 M, 10.9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | Et2O | 22 mL | CCOCC | C4H10O
product | (E)-3-cyclohexylpent-2-enol | 1.59 g, 87% yield | C1(CCCCC1)/C(=C/CO)/CC | C11H20O
